US07226918B2
(ii) Toluene-4-sulfonic acid 2-[(2-hydroxy-propyl)-(toluene-4-sulfonyl)-amino]-ethyl ester
Tosyl chloride (11.60 g, 60.80 mmol) was added in small portions to a stirred solution of 1-(2-Hydroxy-ethylamino)-propan-2-ol (3.60 g, 30.25 mmol) in anhydrous pyridine at 0° C. The reaction was stirred at room temperature for 24 h and then poured onto ice-water (200 ml). The mixture was extracted into DCM (100 ml). The organic extract was washed with 2N HCl, water, and was evaporated in vaccuo to give a brown residue which was used without further purification.

reactant | Tosyl chloride | 60.80 mmol, 11.60 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 1-(2-Hydroxy-ethylamino)-propan-2-ol | 30.25 mmol, 3.60 g | OCCNCC(C)O | C5H13NO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Toluene-4-sulfonic acid 2-[(2-hydroxy-propyl)-(toluene-4-sulfonyl)-amino]-ethyl ester | OC(CN(CCOS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C19H25NO6S2
